US05972946
A mixture o 4-fluorobenzoyl chloride (50 g), potassium thiocyanate (36.7 g) and anhydrous toluene (100 ml) is refluxed for six hours. After cooling, the reaction mixture is filtered, and the filtrate is concentrated under reduced pressure. The residue is purified by distillation under reduced pressure to give 4-fluorobenzoyl isothiocyanate (55 g), b.p. 92° C/3 mmHg.

reactant | 4-fluorobenzoyl chloride | 50 g | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
reactant | potassium thiocyanate | 36.7 g | [S-]C#N.[K+]
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 4-fluorobenzoyl isothiocyanate | 55 g | FC1=CC=C(C(=O)N=C=S)C=C1 | C8H4FNOS
